US06630493B1
a) Ethyl 2-methyl-1-(2-naphthyl)methylimidazole-4-carboxylate
4.6 g (29.8 mmol) of ethyl 2-methylimidazole-4-carboxylate and 6.6 g (29.8 mmol) of 2-bromomethylnaphthalene were reacted analogously to procedure 8a. 5.7 g (65%) of the product were obtained.

reactant | ethyl 2-methylimidazole-4-carboxylate | 29.8 mmol, 4.6 g | CC=1NC=C(N1)C(=O)OCC | C7H10N2O2
reactant | 2-bromomethylnaphthalene | 29.8 mmol, 6.6 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | Ethyl 2-methyl-1-(2-naphthyl)methylimidazole-4-carboxylate | 5.7 g, 65% | CC=1N(C=C(N1)C(=O)OCC)CC1=CC2=CC=CC=C2C=C1 | C18H18N2O2
